US07790728B2
1-(3-Fluorophenyl)-2-pyridin-4-ylethane-1,2-dione
Hydrobromic acid (7.9 mL, 48% in H2O, 69.7 mmol) was added with caution to a stirred solution of 1-(3-fluorophenyl)-2-pyridin-4-ylethanone (5.0 g, 23.2 mmol) in DMSO (40 mL) at 55° C. The reaction was stirred for 2 h and then allowed to cool to room temperature. Water was added and the aqueous phase was neutralized with solid sodium carbonate and extracted twice with ethyl acetate. The organic extracts were washed with brine, dried (MgSO4) and evaporated under reduced pressure to provide the title compound as a yellow solid (2.85 g, 67%).

reactant | Hydrobromic acid | 69.7 mmol, 7.9 mL | Br | BrH
reactant | 1-(3-fluorophenyl)-2-pyridin-4-ylethanone | 23.2 mmol, 5.0 g | FC=1C=C(C=CC1)C(CC1=CC=NC=C1)=O | C13H10FNO
reactant | Water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 1-(3-Fluorophenyl)-2-pyridin-4-ylethane-1,2-dione | 2.85 g, 67% | FC=1C=C(C=CC1)C(C(=O)C1=CC=NC=C1)=O | C13H8FNO2
